US04436918
In 100 ml of water-methanol-acetic acid (1:1:0.2) was dissolved 2.0 g of benzyloxycarbonyl-D-alanyl-2-(2,5-dioxopyrrolidin-3-yl)glycine, and the solution was stirred with 600 mg of palladium black in a stream of hydrogen at room temperature for 2 hours. The reaction mixture was filtered and the filtrate was concentrated to dryness under reduced pressure. The residue was dissolved in 70 ml of water and, following addition of 580 mg of sodium borohydride at 0°-5° C., the mixture was stirred for 30 minutes with adjusting pH to 8.5-9.2 with 2 N hydrochloric acid. This reaction mixture was adsorbed on a column (150 ml) of Amberlite IRA-68 (OH- -form) and after the column was washed with water, elution was carried out with 0.3 N acetic acid. The eluate was concentrated to dryness under reduced pressure and the resultant powder was subjected to column chromatography on activated carbon (250 ml) and eluted with water. The eluate was concentrated under reduced pressure and lyophilized to give D-alanyl-2-(5-hydroxy-2-oxopyrrolidin-3-yl)glycine as a white powder.

reactant | benzyloxycarbonyl-D-alanyl-2-(2,5-dioxopyrrolidin-3-yl)glycine | 2.0 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C)C(=O)NC(C(=O)O)C1C(NC(C1)=O)=O | C17H19N3O7
reactant | hydrogen | [H][H] | H2
solvent | water methanol acetic acid | 100 ml | O.CO.C(C)(=O)O
catalyst | palladium black | 600 mg | [Pd] | Pd
product | D-alanyl-2-(5-hydroxy-2-oxopyrrolidin-3-yl)glycine | N[C@H](C)C(=O)NC(C(=O)O)C1C(NC(C1)O)=O | C9H15N3O5
